US08633186B2
2-(2-(Hydroxymethyl)allyloxy)-6-nitrobenzonitrile
Prepared as in Example 166d from 2,6-dinitrobenzonitrile and 2-methylenepropane-1,3-diol in 55% yield as a white solid. 1H-NMR (400 MHz, DMSO-d6) δ 7.93 (dd, J=8.4 Hz, J=0.8 Hz, 1H), 7.89 (t, J=8.0 Hz, 1H), 7.73 (dd, J=7.6 Hz, J=0.8 Hz, 1H), 5.23-5.29 (m, 2H), 5.03 (t, J=5.6 Hz, 1H), 4.85 (s, 2H), 4.06 (d, J=5.2 Hz, 2H). |ΠατAππ1009—Λ1|ZZMΠTAΓ|

reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | 2-methylenepropane-1,3-diol | C=C(CO)CO | C4H8O2
product | 2-(2-(Hydroxymethyl)allyloxy)-6-nitrobenzonitrile | 55% yield | OCC(COC1=C(C#N)C(=CC=C1)[N+](=O)[O-])=C | C11H10N2O4
